US06503907B2
2.8 g (9.3 mmol) 5-(5-Hydroxy-pent-1-ynyl)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester in 60 ml MeOH were subjected to hydrogenation with 10%Pd/C to yield 2.8 g (quantitative) 5-(5-Hydroxy-pentyl)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester as colorless viscous oil, MS: 305 (M).

reactant | 5-(5-Hydroxy-pent-1-ynyl)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 9.3 mmol, 2.8 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)C#CCCCO | C18H23NO3
solvent | MeOH | 60 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 5-(5-Hydroxy-pentyl)-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 2.8 g | C(C)(C)(C)OC(=O)N1CCC2=CC(=CC=C12)CCCCCO | C18H27NO3
